US04457925
A solution of 11 g of 3-acetoxy-1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstane in 55 ml of tetrahydrofuran and 55 ml of methanol is combined with 11 ml of 8% strength sulfuric acid and stirred for 3 hours at room temperature. The reaction solution is diluted with diethyl ether, washed with water, dried, and evaporated. The residue is chromatographed on silica gel, yielding 7.0 g of 3-acetoxy-1α,2α-methylene-5α-androstan-17β-ol.

reactant | 3-acetoxy-1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstane | 11 g | C(C)(=O)OC1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H]2[C@H]1C2)C)OC2OCCCC2 | C27H42O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
solvent | methanol | 55 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-acetoxy-1α,2α-methylene-5α-androstan-17β-ol | 7.0 g | C(C)(=O)OC1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H]2[C@H]1C2)C)O | C22H34O3
